US07741323B2
2-(3-Methylbenzoyl)-3-phenylacrylate ethyl ester (1 g, 3.39 mmol) was dissolved in dichloromethane. Methanesulfonic acid (5.22 g, 54.35 mmol) was added thereto and the mixture was stirred for 3 hours at room temperature. After the reaction was completed, the mixture was cooled to 0° C. followed by neutralizing with sodium bicarbonate. Then, the separated organic layer extracted with dichloromethane was dried over anhydrous magnesium sulfate, concentrated, and the resulting residue was purified by column chromatography (ethyl acetate:hexane=1:9) to obtain 5-methyl-3-oxo-1-phenyl-indene-2-carboxylate ethyl ester (273 mg, yield 27%).

reactant | 2-(3-Methylbenzoyl)-3-phenylacrylate ethyl ester | 3.39 mmol, 1 g | C(C)OC(C(=CC1=CC=CC=C1)C(C1=CC(=CC=C1)C)=O)=O | C19H18O3
reactant | Methanesulfonic acid | 54.35 mmol, 5.22 g | CS(=O)(=O)O | CH4O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-methyl-3-oxo-1-phenyl-indene-2-carboxylate ethyl ester | 273 mg, yield 27% | C(C)OC(=O)C1=C(C2=CC=C(C=C2C1=O)C)C1=CC=CC=C1 | C19H16O3
